US04816466
In 6 ml of 1N aqueous sodium hydroxide is dissolved 0.25 g of N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide, and the solution is allowed to stand at room temperature for 30 minutes. The reaction is made weakly acidic with acetic acid and purified by column chromatography on Amberlite XAD-2 (0.1M aqueous ammonia-5% acetonitrile). The effluent is concentrated under reduced pressure and lyophilized to give 0.11 g of N-[N-[(S)-1-carboxy-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine as a colorless powder.

reactant | N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide | 0.25 g | Br.Br.C(C)OC(=O)[C@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
product | N-[N-[(S)-1-carboxy-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine | 0.11 g | C(=O)(O)[C@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | C25H37N3O5
